US06927214B1
Bis-(6,7-dichloro-2-isopropylquinoxalin-3-yl)sulfide
To a solution of 2,6,7-trichloro-3-isopropylquinoxaline (105 mg, 0.38 mmol) in DMF (3 ml) was added sodium hydrosulfide (21 mg, 0.23 mmol). The reaction mixture was stirred at 55-60° C. in an oil bath overnight. The product was purified by a plug filtration through silica gel using ethyl acetate:hexanes 1:20 followed by preparative thin layer chromatography using ethyl acetate:hexanes 1:60. Extraction of the product band using chloroform afforded the title compound as a white solid in 20% yield.

reactant | 2,6,7-trichloro-3-isopropylquinoxaline | 0.38 mmol, 105 mg | ClC1=NC2=CC(=C(C=C2N=C1C(C)C)Cl)Cl | C11H9Cl3N2
reactant | sodium hydrosulfide | 0.23 mmol, 21 mg | [SH-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Bis-(6,7-dichloro-2-isopropylquinoxalin-3-yl)sulfide | 20% yield | ClC=1C=C2N=C(C(=NC2=CC1Cl)C(C)C)SC=1C(=NC2=CC(=C(C=C2N1)Cl)Cl)C(C)C | C22H18Cl4N4S
